US08614213B2
Step 1: Trans-4-(2-Chloro-5-trifluoromethyl-benzoylamino)-cyclohexane carboxylic acid methyl ester
To a stirred suspension of trans-4-amino-cyclohexylcarboxylic acid methyl ester hydrochloride (6.7 g, 34.7 mmol) in dry THF (90 mL) under nitrogen atmosphere is added triethylamine (12 mL, 86.8 mmol). The suspension is cooled to 0° C. and 2-chloro-5-(trifluoromethyl)benzoyl chloride (8.85 g, 36.4 mmol) in dry THF (40 mL) is added dropwise over 20 minutes. The resulting thick, colourless slurry is stirred at 0-5° C. for 30 minutes and then allowed to warm to room temp and stirred at room temp for 1 hour. The reaction is quenched by the dropwise addition of water (5 mL) in THF (45 mL) to give a clear solution. This is diluted with water (100 mL) and ethyl acetate (300 mL). The biphasic mixture is stirred for 5 minutes then the organic phase is separated and washed successively with water (100 mL), saturated sodium bicarbonate (100 mL) and saturated brine (100 mL), dried (MgSO4), filtered and evaporated to give a colourless solid; [MH+364].

reactant | trans-4-amino-cyclohexylcarboxylic acid methyl ester hydrochloride | 34.7 mmol, 6.7 g | Cl.COC(=O)[C@@H]1CC[C@H](CC1)N
reactant | triethylamine | 86.8 mmol, 12 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5-(trifluoromethyl)benzoyl chloride | 36.4 mmol, 8.85 g | ClC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3Cl2F3O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | Trans-4-(2-Chloro-5-trifluoromethyl-benzoylamino)-cyclohexane carboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)NC(C1=C(C=CC(=C1)C(F)(F)F)Cl)=O | C16H17ClF3NO3
